US06924276B2
Thiophene-2,4-dicarboxylic Acid bis-[(1,3-benzodioxol-5-ylmethyl)-amide]
The title compound was prepared according to the procedure described for Example 2 using carbonyldiimidazole (1.2 g, 7.4 mmol), 2,4-thiophene-dicarboxylic acid (0.5 g, 3.0 mmol), and piperonylamine (1.05 g, 6.7 mmol) to afford 1.2 g of thiophene-2,4-dicarboxylic acid bis-[(1,3-benzodioxol-5-ylmethyl)-amide]. Recrystallization of a sample from ethanol gave product with a mp 174-175° C.

reactant | carbonyldiimidazole | 7.4 mmol, 1.2 g | C(=O)(N1C=NC=C1)N1C=NC=C1 | C7H6N4O
reactant | 2,4-thiophene-dicarboxylic acid | 3.0 mmol, 0.5 g | S1C(=CC(=C1)C(=O)O)C(=O)O | C6H4O4S
reactant | piperonylamine | 6.7 mmol, 1.05 g | C(C1=CC=2OCOC2C=C1)N | C8H9NO2
product | thiophene-2,4-dicarboxylic acid bis-[(1,3-benzodioxol-5-ylmethyl)-amide] | 1.2 g | O1COC2=C1C=CC(=C2)CNC(=O)C=2SC=C(C2)C(=O)NCC2=CC1=C(OCO1)C=C2 | C22H18N2O6S
